US06762180B1
N-(2-dimethylamino-ethyl)-N-methylsulphonyl-4-nitroaniline
38.9 g of N-methylsulphonyl-4-nitroaniline are dissolved in 2.0 l of acetone, 51.9 g of 1-chloro-2-dimethylamino-ethane, 77.4 g of potassium carbonate and 5.0 g of sodium iodide are added and the mixture is stirred for a total of 4 days at 50° C., while after 12 hours a further 25.9 g of 1-chloro-2dimethylamino-ethane, 49.8 g of potassium carbonate and 5.0 g of sodium iodide in 500 ml of acetone are added and after 36 hours another 26.0 g of 1-chloro-2-dimethylamino-ethane, 50.0 g of potassium carbonate and 5.0 g of sodium iodide in 100 ml of acetone are added. After this time the mixture is filtered and the filtrate evaporated down. The residue is stirred with ether, suction filtered and dried at 40° C.

reactant | N-methylsulphonyl-4-nitroaniline | 38.9 g | CS(=O)(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | 1-chloro-2-dimethylamino-ethane | 51.9 g | ClCCN(C)C | C4H10ClN
reactant | potassium carbonate | 77.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.0 g | [I-].[Na+]
reactant | 1-chloro-2dimethylamino-ethane | 25.9 g | ClCCN(C)C | C4H10ClN
reactant | potassium carbonate | 49.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.0 g | [I-].[Na+]
reactant | 1-chloro-2-dimethylamino-ethane | 26.0 g | ClCCN(C)C | C4H10ClN
reactant | potassium carbonate | 50.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.0 g | [I-].[Na+]
solvent | acetone | 2.0 l | CC(=O)C | C3H6O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(2-dimethylamino-ethyl)-N-methylsulphonyl-4-nitroaniline | CN(CCN(C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)C | C11H17N3O4S
